US06258906B1
Into a 1000-l stirred reactor cooled below 10° C. are introduced 622 kg of an aqueous solution of sodium chloride containing 180 g/kg (that is 510 kg of demineralized water and 112 kg of NaCl), precooled to 5° C. 20.4 kg of ethyl chloroformate and 8.5 kg of aqueous solution of hydrogen peroxide containing 350 g/kg are then introduced successively into the stirred aqueous solution, and finally, very slowly, 36.1 l of aqueous solution of sodium hydroxide containing 200 g/kg, so as to maintain the temperature below 10° C. The density of the aqueous reaction mixture rises to 1.11. 10 minutes after the end of the introduction of the NaOH solution 34.5 kg of diethylhexyl adipate are introduced, precooled to 5° C. After the reaction mixture has been kept stirred for 15 minutes while being cooled to 5° C., the stirring is stopped. The aqueous phase (dense phase) is then separated off after settling out and the organic phase is recovered. The solution of diethyl peroxydicarbonate in diethylhexyl adipate which is thus produced is stored at 5° C. with a view to its subsequent use. Its diethyl peroxydicarbonate content (determined by analysis) is 287 g/kg.

reactant | sodium chloride | [Cl-].[Na+]
reactant | NaCl | 112 kg | [Na+].[Cl-]
reactant | ethyl chloroformate | 20.4 kg | ClC(=O)OCC | C3H5ClO2
reactant | hydrogen peroxide | OO | H2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | NaOH | 34.5 kg | [OH-].[Na+]
reactant | diethylhexyl adipate | C(CCCCC(=O)[O-])(=O)OC(CCCCC)(CC)CC
solvent | water | 510 kg | O | H2O
product | diethyl peroxydicarbonate | C(=O)(OCC)OOC(=O)OCC | C6H10O6
